US06388084B1
A solution of 4-(1-benzyl-5-chloro-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride (100 mg, 0.25 mmol), 1-(2-methoxyethyl)cyclopentane carboxylic acid (47 mg, 0.28 mmol), DIEA (200 μL, 1.2 mmol) and HBTU (133 mg, 0.35 mmol) in DMF (2 mL) was stirred at room temperature for 18 hr. The mixture was concentrated, the residue was dissolved in ethyl acetate (15 mL), was washed with 0.5 N HCl (1×5 mL), sat. NaHCO3 (1×5 mL), brine (1×5 mL) and was dried (MgSO4). The residue obtained upon evaporation was chromatographed on 25 g of silica gel, eluting with 60:40 ethyl acetate:hexane to give 4-(1-benzyl-5-chloro-2-oxo-3-pyridinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (80 mg, 63%). LR-Electrospray: m/z 1123 (2M+Na), 1118 (2M+NH4), 573 (M+Na), 568 (M+NH4), 551 (M+H (1 Cl)). HRMS: Obs. Mass 551.2297. Calcd. Mass 551.2313 (M+H).

reactant | 4-(1-benzyl-5-chloro-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride | 0.25 mmol, 100 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Cl)CC1=CC=CC=C1)=O)=O
reactant | 1-(2-methoxyethyl)cyclopentane carboxylic acid | 0.28 mmol, 47 mg | COCCC1(CCCC1)C(=O)O | C9H16O3
reactant | DIEA | 1.2 mmol, 200 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 0.35 mmol, 133 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(1-benzyl-5-chloro-2-oxo-3-pyridinyl)-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 80 mg, 63% | COC([C@@H](NC(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Cl)CC1=CC=CC=C1)=O)=O | C31H35ClN2O5
